US07074799B2
Hydrogenate 2-nitro-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide (1.0 g, 0.0032 mol) with 50 psi of H2 and 100 mg of 10% Pd/C in ethanol. After 16 hours, filter the mixture through celite and concentrate under reduced pressure to give 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide as a solid.

reactant | 2-nitro-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide | 0.0032 mol, 1.0 g | [N+](=O)([O-])C1=C(C(=O)N)C=CC(=C1)C1=NC=CC=C1C(F)(F)F | C13H8F3N3O3
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide | NC1=C(C(=O)N)C=CC(=C1)C1=NC=CC=C1C(F)(F)F | C13H10F3N3O
